US06924374B2
1-Isopropyl-4-(4-Methyl-3-nitro-phenyl)-piperazine
Beginning with 1-(4-methyl-3-nitro-phenyl)-piperazine and 1-isopropylbromide, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV) 263 (M+, 31), 249 (15), 248 (bp), 84 (15), 56 (42).

reactant | 1-(4-methyl-3-nitro-phenyl)-piperazine | CC1=C(C=C(C=C1)N1CCNCC1)[N+](=O)[O-] | C11H15N3O2
reactant | 1-isopropylbromide | C(C)(C)Br | C3H7Br
product | 1-Isopropyl-4-(4-Methyl-3-nitro-phenyl)-piperazine | C(C)(C)N1CCN(CC1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C14H21N3O2
